US04014943
Preparation of Tris-(3,5-di-t-butyl-4-hydroxybenzyl)nitromethane.
To a rapidly stirred solution of 11.0l g of 3,5-di-t-butyl-4-hydroxybenzyl N,N-diethyldithiocarbamate in 100 ml of hot methanol was added a freshly prepared solution of 1.68 g of potassium hydroxide and 0.61 g of nitromethane. The resulting stirred mixture was refluxed under nitrogen for 24 hours. Upon cooling, 3.0 g of the product precipitated as white crystals, mp 199°-201° C. An additional 2.07 g of pure product was obtained from the filtrate after recrystallization from acetonitrile and vacuum drying.

reactant | 3,5-di-t-butyl-4-hydroxybenzyl N,N-diethyldithiocarbamate | C(C)N(C(SCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=S)CC | C20H33NOS2
reactant | potassium hydroxide | 1.68 g | [OH-].[K+]
reactant | nitromethane | 0.61 g | [N+](=O)([O-])C | CH3NO2
solvent | methanol | 100 ml | CO | CH4O
product | Tris-(3,5-di-t-butyl-4-hydroxybenzyl)nitromethane | 2.07 g | C(C)(C)(C)C=1C=C(CC([N+](=O)[O-])(CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=C(C1O)C(C)(C)C | C46H69NO5
